US07176195B2
18A. 1-Methyl-2-oxo-2,3,4,5-tetrahydro-1H-1,5-benzodiazepine
To a solution of 2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-2-one (2.0 g, 12.3 mmol) in DMF (30 ml), at −10° C., was added sodium hydride (0.54 g, 60% dispersion, 13.6 mmol). The mixture was stirred at −10° C. for 15 min, then methyl iodide (0.77 ml, 12.3 mmol) was added. The mixture was stirred at −100° C. for a further 1 h and then concentrated in vacuo. The residue was taken up in EtOAc and washed with brine (3 times), dried over MgSO4, and concentrated in vacuo. The residue was purified by flash chromatography on silica (eluant EtOAc) to give a white solid; yield 1.70 g (78%).

reactant | 2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-2-one | 12.3 mmol, 2.0 g | N1C(CCNC2=C1C=CC=C2)=O | C9H10N2O
reactant | sodium hydride | 13.6 mmol, 0.54 g | [H-].[Na+]
reactant | methyl iodide | 12.3 mmol, 0.77 ml | CI | CH3I
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 1-Methyl-2-oxo-2,3,4,5-tetrahydro-1H-1,5-benzodiazepine | CN1C(CCNC2=C1C=CC=C2)=O | C10H12N2O
